US07368578B2
A mixture of 4-chloromethyl-1-ethyl-1H-pyrazole hydrochloride (24.00 g), triphenylphosphine (34.10 g), acetonitrile (250 mL) was heated under reflux for 16 hrs. The reaction mixture was concentrated, and the residue was decanted and washed with diethyl ether (3 times with 200 mL). Toluene was added and the mixture was concentrated under reduced pressure to give [(1-ethyl-1H-pyrazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride as amorphous form (57.47 g, yield 95%). NMR (DMSO-d6) δ: 1.22 (3H, t, J=7.2 Hz), 4.01 (2H, q, J=7.2 Hz), 4.66 (1H,brs), 5.01 (2H, d, J=13.8 Hz), 6.93 (1H, s), 7.25 (1H, s), 7.68-7.79 (12H, m), 7.87-7.92 (3H, m).

reactant | 4-chloromethyl-1-ethyl-1H-pyrazole hydrochloride | 24.00 g | Cl.ClCC=1C=NN(C1)CC
reactant | triphenylphosphine | 34.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | [(1-ethyl-1H-pyrazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride | yield 95% | Cl.[Cl-].C(C)N1N=CC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H24N2P.2ClH/c1-2-26-19-21(18-25-26)20-27(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;;/h3-19H,2,20H2,1H3;2*1H/q+1;;/p-1
